US07279481B2
(S)-H exahydro-3H-pyrrolo[1,2-c]imidazol-3-one
(S)-2-(Aminomethyl)pyrrolidine (250 mg) and carbonyldiimidazole (400 mg, 1.0 equiv.) were dissolved in DCM (50 mL). The resulting mixture was stirred at room temperature for 18 hours, then concentrated under vacuum. The residue was purified by flash column chromatography (SPE cartridge, SiO2), using DCM-methanol (95:5) as eluent to afford the title compound as colourless solid (150 mg, 50% yield).

reactant | (S)-2-(Aminomethyl)pyrrolidine | 250 mg | NC[C@H]1NCCC1 | C5H12N2
reactant | carbonyldiimidazole | 400 mg, 1.0 equiv. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-H exahydro-3H-pyrrolo[1,2-c]imidazol-3-one | 150 mg, 50% yield | C1[C@H]2N(C(N1)=O)CCC2 | C6H10N2O
